US04082850
Reaction of ethyl 4-(2-ethoxycarbonyl-5-chlorobenzyloxy)phenylacetate with potassium hydroxide as described in Example 1c provides 4-(2-carboxy-5-chlorobenzyloxy)phenylacetic acid as a colorless solid, mp 197°-201° C.

reactant | ethyl 4-(2-ethoxycarbonyl-5-chlorobenzyloxy)phenylacetate | C(C)OC(=O)C1=C(COC2=CC=C(C=C2)CC(=O)OCC)C=C(C=C1)Cl | C20H21ClO5
reactant | potassium hydroxide | [OH-].[K+]
product | 4-(2-carboxy-5-chlorobenzyloxy)phenylacetic acid | C(=O)(O)C1=C(COC2=CC=C(C=C2)CC(=O)O)C=C(C=C1)Cl | C16H13ClO5
